US08937073B2
2b) (S)-3-[(5-amino-pyridine-3-carbonyl)-amino]-tetrahydrofuran-3-carboxylic acid
Analogously to Example 1d), n-butyl(S)-3-[(5-amino-pyridine-3-carbonyl)-amino]-tetrahydrofuran-3-carboxylate (69.9 mmol) was saponified with sodium hydroxide solution.

reactant | n-butyl(S)-3-[(5-amino-pyridine-3-carbonyl)-amino]-tetrahydrofuran-3-carboxylate | 69.9 mmol | NC=1C=C(C=NC1)C(=O)N[C@@]1(COCC1)C(=O)OCCCC | C15H21N3O4
reactant | sodium hydroxide | [OH-].[Na+]
product | (S)-3-[(5-amino-pyridine-3-carbonyl)-amino]-tetrahydrofuran-3-carboxylic acid | NC=1C=C(C=NC1)C(=O)N[C@@]1(COCC1)C(=O)O | C11H13N3O4
